US08207199B2
To a mixture of 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (5.0 g) and toluene (50 mL) was added CDI (3.9 g), followed by stirring at room temperature for 3 hours. Then, N′-hydroxybenzenecarboxyimidate (3.3 g) was added thereto, followed by stirring for 1.5 hours and then heating and refluxing for 2 hours. After leaving to be cooled, to the reaction liquid were added ethyl acetate and water, and the organic phase was separated. The organic phase was washed with water and saturated brine, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. To the residue were added hexane and ethyl acetate, and the resulting solid was collected by filtration to obtain tert-butyl 4-(3-phenyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate (5.46 g).

reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | CDI | 3.9 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 4-(3-phenyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate | 5.46 g | C1(=CC=CC=C1)C1=NOC(=N1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O3
